US04710573
1-Benzoyl-3-[1-(2-phenylethyl)-4-piperidinyl]-1H-indazole hydrochloride
A mixture of 1.6 g of 3-(1-pheneth-2-yl-4-piperidinyl)-1H-indazole and 7 ml of benzoyl chloride was heated at 100° for 2 hr. After cooling, ether was added and the solid was collected. The solid was combined with material from a prior experiment and recrystallized from methanol to yield 2.4 g (51%) of product, mp 248°-250° C.

reactant | 3-(1-pheneth-2-yl-4-piperidinyl)-1H-indazole | 1.6 g | CCC1=C(C=CC=C1)N1CCC(CC1)C1=NNC2=CC=CC=C12 | C20H23N3
reactant | benzoyl chloride | 7 ml | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | ether | CCOCC | C4H10O
product | 1-Benzoyl-3-[1-(2-phenylethyl)-4-piperidinyl]-1H-indazole hydrochloride | 2.4 g, 51% | Cl.C(C1=CC=CC=C1)(=O)N1N=C(C2=CC=CC=C12)C1CCN(CC1)CCC1=CC=CC=C1 | InChI=1S/C27H27N3O.ClH/c31-27(23-11-5-2-6-12-23)30-25-14-8-7-13-24(25)26(28-30)22-16-19-29(20-17-22)18-15-21-9-3-1-4-10-21;/h1-14,22H,15-20H2;1H
